US08557984B2
To a solution of 7-(3,5-dimethyl-4-isoxazolyl)-4-{[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]amino}-6-(methyloxy)-3-quinolinecarboxamide (for a preparation see intermediate 65, 0.3 g) in acetonitrile (50 ml) was added bis(trifluoroacetoxy)iodo]benzene (0.443 g) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into water and extracted with DCM. The organic phase was dried over Na2SO4 and concentrated to dryness to give an orange oil. The residue was purified by flash chromatography on silica gel eluting with DCM/methanol (98: 2 then 97:3) give a sticky pale yellow solid, which was triturated in hot diisopropylether to give 7-(3,5-dimethyl-4-isoxazolyl)-1-[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]-8-(methyloxy)-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one (0.21 g) as a cream coloured solid.

reactant | 7-(3,5-dimethyl-4-isoxazolyl)-4-{[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]amino}-6-(methyloxy)-3-quinolinecarboxamide | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)C(=O)N)NCC1=C(N=C(S1)C)C)OC)C | C22H23N5O3S
reactant | benzene | 0.443 g | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-(3,5-dimethyl-4-isoxazolyl)-1-[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]-8-(methyloxy)-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one | 0.21 g | CC1=NOC(=C1C=1C(=CC=2C3=C(C=NC2C1)NC(N3CC3=C(N=C(S3)C)C)=O)OC)C | C22H21N5O3S
